US05962458
A solution of 1-methyl-2-(3-(2-tetrahydropyranyloxy)propylthio)imidazole (2.0 g, 7.8mmol) in acetic acid (8 ml), THF (4 ml) and water (2 ml) was heated at 50° C. for 4 hours. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 2-(3-hydroxypropylthio)-1-methylimidazole (1.3 g, 100%) as an off-white solid.

reactant | 1-methyl-2-(3-(2-tetrahydropyranyloxy)propylthio)imidazole | 7.8mmol, 2.0 g | CN1C(=NC=C1)SCCCOC1OCCCC1 | C12H20N2O2S
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2-(3-hydroxypropylthio)-1-methylimidazole | 1.3 g, 100% | OCCCSC=1N(C=CN1)C | C7H12N2OS
